US09359362B2
N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}isoxazole-5-carboxamide
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (30 mg, 66 μmol) was dissolved in abs. pyridine (2 ml). At room temperature, isoxazol-5-carbonyl chloride (26 mg, 197 μmol, 3 eq.) was added, and the mixture was stirred overnight. Once HPLC showed substantial conversion, the reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (5 mg, 15% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 66 μmol, 30 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | isoxazol-5-carbonyl chloride | 197 μmol, 26 mg, 3 eq. | O1N=CC=C1C(=O)Cl | C4H2ClNO2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}isoxazole-5-carboxamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(=O)C2=CC=NO2)C2=CC(=CC=C2)C(F)(F)F)C | C25H15F3N8O2
